US06982348B2
4-fluoro-N-((1RS,2SR)-2-(4-fluorophenyl)-2-hydroxy-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-1-naphthalenecarboxamide
To a solution of 4-fluoro-1-naphthalenecarboxylic acid (163 mg), 0.86 mmol) in tetrahydrofuran (5 ml) were added oxalyl chloride (0.15 ml, 1.72 mmol) and N,N-dimethylformamide (0.01 ml), and the mixture was stirred at room temperature for 30 min. The reaction solution was evaporated under reduced pressure. To a solution of the residue in ethyl acetate (5 ml) were added (1RS,2SR)-1-(4-fluorophenyl)-1-hydroxy-3-(4-(trifluoromethyl)phenyl)-2-propylamine hydrochloride (200 mg, 0.57 mmol) and saturated aqueous sodium hydrogen carbonate (5 ml) and the mixture was stirred at room temperature for 2 hrs. The reaction solution was diluted with water (50 ml), and extracted with ethyl acetate (50 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1) and recrystallized from ethyl acetate-hexane to give the title compound (214 mg, 77%).

reactant | 4-fluoro-1-naphthalenecarboxylic acid | 163 mg | FC1=CC=C(C2=CC=CC=C12)C(=O)O | C11H7FO2
reactant | oxalyl chloride | 1.72 mmol, 0.15 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (1RS,2SR)-1-(4-fluorophenyl)-1-hydroxy-3-(4-(trifluoromethyl)phenyl)-2-propylamine hydrochloride | 0.57 mmol, 200 mg | Cl.FC1=CC=C(C=C1)C(C(CC1=CC=C(C=C1)C(F)(F)F)N)O
reactant | sodium hydrogen carbonate | 5 ml | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 50 ml | O | H2O
solvent | N,N-dimethylformamide | 0.01 ml | CN(C=O)C | C3H7NO
product | 4-fluoro-N-((1RS,2SR)-2-(4-fluorophenyl)-2-hydroxy-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)-1-naphthalenecarboxamide | 214 mg, 77% | FC1=CC=C(C2=CC=CC=C12)C(=O)NC(C(O)C1=CC=C(C=C1)F)CC1=CC=C(C=C1)C(F)(F)F | C27H20F5NO2
